US08283475B2
2-Amino-3-(6-chloro-3-methoxy-7-methyl-2H-pyrazolo[4,3-b]pyridin-2-yl)-2-methylpropionitrile (26 mg) was prepared using a procedure similar to that described in Example 1, part b, except starting from 1-(6-chloro-3-methoxy-7-methyl-2H-pyrazolo[4,3-b]pyridin-2-yl)propan-2-one (78 mg). 1-(6-Chloro-3-methoxy-7-methyl-2H-pyrazolo[4,3-b]pyridin-2-yl)propan-2-one was prepared using a procedure similar to that described in Example 105 part a to d except using 5-chloro-4-methyl-3-nitropyridine-2-carboxaldehyde (1.3 g) in part a to yield [2-(tert-butyldimethylsilanyloxy)propyl]-(5-chloro-4-methyl-3-nitropyridin-2-yl-methyl)amine (1.4 g, 57%). 5-Chloro-4-methyl-3-nitro-pyridine-2-carboxaldehyde was prepared using a procedure similar to that described in Example 136 part a to c except starting from 2-amino-5-chloro-4-methyl-3-nitropyridine (32 g) in part a to generate 2-bromo-5-chloro-4-methyl-3-nitropyridine (25.2 g, 59%). Oxidative cleavage using a 4% solution of osmium tetroxide in water (1.5 mL) and sodium periodate (2.5 g) was carried out in a mixture of THF and water (10:1, 60 mL) in part c instead of ozonolysis following a procedure similar to that described in Example 61 to afford 5-chloro-4-methyl-3-nitropyridine-2-carboxaldehyde (1.3 g, 56%) from 5-chloro-4-methyl-3-nitro-2-vinylpyridine (2.3 g). 2-Amino-5-chloro-4-methyl-3-nitropyridine (4.6 g, 75%) was prepared using a procedure similar to that described in Example 38 part a except starting from 2-amino-4-methyl-3-nitropyridine (5 g) and using N-chlorosuccinimide (5.8 g) instead of N-bromosuccinimide.

reactant | 2-amino-4-methyl-3-nitropyridine | 5 g | NC1=NC=CC(=C1[N+](=O)[O-])C | C6H7N3O2
reactant | N-chlorosuccinimide | 5.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 2-Amino-5-chloro-4-methyl-3-nitropyridine | 4.6 g, 75% | NC1=NC=C(C(=C1[N+](=O)[O-])C)Cl | C6H6ClN3O2
